US04025630
4,4-Dimethyl-9-[4-(morpholino)butyryloxy]-7-(phenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta[c][1]benzopyran hydrochloride
1.0 g. (3.5 mmoles) of 4,4-dimethyl-9-hydroxy-7-(phenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta[c][1]benzopyran, 0.76 g. (3.63 mmoles) of γ-morpholinobutyric acid hydrochloride and 0.76 g. (3.70 mmoles) of dicyclohexylcarbodiimide are combined in 75 ml. of methylene chloride and stirred at room temperature for 24 hours. The insoluble by-product of dicyclohexylurea is removed by filtration and the methylene chloride solution is concentrated to 20 ml. Cyclohexane is added until the desired compound is obtained as a colorless solid. Recrystallization from methylene chloride/cyclohexane gives the desired crystalline.

reactant | 4,4-dimethyl-9-hydroxy-7-(phenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta[c][1]benzopyran | 3.5 mmoles | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCC)(C)C2=CC=CC=C2)O)C | C25H30O2
reactant | γ-morpholinobutyric acid hydrochloride | 3.63 mmoles | Cl.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 3.70 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-9-[4-(morpholino)butyryloxy]-7-(phenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta[c][1]benzopyran hydrochloride | Cl.CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCC)(C)C2=CC=CC=C2)OC(CCCN2CCOCC2)=O)C | InChI=1S/C33H43NO4.ClH/c1-5-16-33(4,24-11-7-6-8-12-24)25-22-28(37-30(35)15-10-17-34-18-20-36-21-19-34)31-26-13-9-14-27(26)32(2,3)38-29(31)23-25;/h6-8,11-12,22-23H,5,9-10,13-21H2,1-4H3;1H
